US06448277B2
3 mL Acetic acid and 8.6 g 4-pyridinecarbaldehyde are added to a solution of 7.5 g methyl anthranilate in 300 mL methanol. The mixture is stirred for 12 hours under nitrogen atmosphere at room temperature. 5.7 g Sodium cyanotrihydridoborate (85%) is added and the mixture is stirred for 3 hours at room temperature. Additional 1.14 g sodium cyanotrihydridoborate (85%) is added and the mixture is stirred for 12 hours at room temperature. The solvent is evaporated and the residue dissolved in ethyl acetate and washed with saturated NaHCO3 solution and saturated sodium chloride solution. The organic extract is concentrated and purified with hexane/ethyl acetate (1:1) on silica gel to yield methyl N-(4-pyridylmethyl)-anthranilate with m.p. 86° C.

reactant | Acetic acid | 3 mL | C(C)(=O)O | C2H4O2
reactant | 4-pyridinecarbaldehyde | 8.6 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | methyl anthranilate | 7.5 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | Sodium cyanotrihydridoborate | 5.7 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanotrihydridoborate | 1.14 g | C(#N)[BH3-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
product | methyl N-(4-pyridylmethyl)-anthranilate | N1=CC=C(C=C1)CNC=1C(C(=O)OC)=CC=CC1 | C14H14N2O2
